US09290499B2
To a mixture of 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine (0.49 g, 2.0 mmol) in THF (5 mL) was added meta-chloroperoxybenzoic acid (0.52 g, 99%, 3 mmol) at room temperature. The white mixture was stirred for 2 h and n-propylamine (0.82 mL, 10 mmol) was added at 0° C. The resulting solution was heated at 40° C. for 12 h. After removal of the solvent, MeOH was added and the mixture was filtered. The white solid was washed with MeOH (3×) and dried to provide 3-bromo-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine (0.45 g, 88%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.19 (bs, 1H), 8.63 (s, 1H), 7.69 (bs, 1H), 3.29-3.17 (m, 2H), 1.61-1.49 (m, 2H), 0.88 (t, J=7.4 Hz, 3H); 13C NMR (100 MHz, DMSO-d6) δ 161.61, 156.98, 152.71, 120.06, 106.66, 42.68, 21.72, 11.47; MS m/z 256.1 [M+1].

reactant | 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine | 2.0 mmol, 0.49 g | BrC1=NNC2=NC(=NC=C21)SC | C6H5BrN4S
reactant | meta-chloroperoxybenzoic acid | 3 mmol, 0.52 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | n-propylamine | 10 mmol, 0.82 mL | C(CC)N | C3H9N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-bromo-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine | 0.45 g, 88% | BrC1=NNC2=NC(=NC=C21)NCCC | C8H10BrN5
